US04582833
4-(5-Amino-4H-1,2,4-triazol-3-yl)-1-piperazinecarboxylic acid, benzyl ester
As for Example 3, a mixture of 66.0 g (0.3 moles) of benzyl N-piperazinecarboxylate and 43.8 g (0.3 moles) of dimethyl cyanodithioiminocarbonate in 300 ml of acetonitrile was refluxed for 16 hours. After cooling, filtration and washing, 16.0 ml (0.32 moles) of hydrazine hydrate was added to the filtrate and the mixture was refluxed for 4 hours. Cooling, filtration, and washing with cold acetonitrile, then hexane gave 74.7 g of the desired product as colorless crystals, mp 157°-159° C.

reactant | benzyl N-piperazinecarboxylate | 0.3 moles, 66.0 g | N1(CCNCC1)C(=O)OCC1=CC=CC=C1 | C12H16N2O2
reactant | dimethyl cyanodithioiminocarbonate | 0.3 moles, 43.8 g | CSC(=NC#N)SC | C4H6N2S2
reactant | hydrazine hydrate | 0.32 moles, 16.0 ml | O.NN
solvent | acetonitrile | 300 ml | C(C)#N | C2H3N
product | 4-(5-Amino-4H-1,2,4-triazol-3-yl)-1-piperazinecarboxylic acid, benzyl ester | 74.7 g | NC=1NC(=NN1)N1CCN(CC1)C(=O)OCC1=CC=CC=C1 | C14H18N6O2
